US08084621B2
Synthesis of 2-methyl-N-(3-morpholinopropyl)-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxamide (II-8)
Similar procedure as Example 2, 2-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylic acid (S4) 0.2 g (1.0 mmol) and 3-morpholinopropan-1-amine 0.30 g (2.1 mmol) was reacted to give 0.27 g (85%) of the titled compound as a white solid.

reactant | 2-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylic acid | 1.0 mmol, 0.2 g | CC=1NC=2C(CCCC2C1C(=O)O)=O | C10H11NO3
reactant | 3-morpholinopropan-1-amine | 2.1 mmol, 0.30 g | O1CCN(CC1)CCCN | C7H16N2O
product | 2-methyl-N-(3-morpholinopropyl)-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxamide | 0.27 g, 85% | CC=1NC=2C(CCCC2C1C(=O)NCCCN1CCOCC1)=O | C17H25N3O3
